US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenyloxyethyl)-methylamine
The title compound is prepared from [3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane and N-(2-phenyloxyethyl)-methylamine analogously to Example 1.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-(2-phenyloxyethyl)-methylamine | C1(=CC=CC=C1)OCCNC | C9H13NO
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenyloxyethyl)-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCOC2=CC=CC=C2)C)=O)C=C1OC | C24H32N2O4
